

***********************************************************
* CDL produced by pvsBuildNetlist on Aug 10 01:56:39 2026 *
***********************************************************


*pvsViewList = auCdl schematic
*pvsStopList = ("auCdl")
*pvsSimName  = auCdl



*.EXPAND_ON_M_FACTOR
*.MEGA



.subckt comparator_preamp EN EN_N IBIAS OUT_N OUT_P VDD VN VP VSS
*PVSCELL netlisted from NS_SAR_Analog comparator_preamp schematic
  MNM0 net011 N_BIAS VSS VSS nfet_01v8 M=14 L=1u W=1u
  MNM1 OUT_P VP net011 VSS nfet_01v8 M=2 L=1u W=1.5u
  MNM10 VSS VSS VSS VSS nfet_01v8 M=4 L=500n W=1u
  MNM18 VSS VSS VSS VSS nfet_01v8 M=4 L=500n W=1.5u
  MNM2 OUT_N VN net011 VSS nfet_01v8 M=2 L=1u W=1.5u
  MNM23 VSS VSS VSS VSS nfet_01v8 M=4 L=500n W=750n
  MNM24 VSS VSS VSS VSS nfet_01v8 M=4 L=1u W=750n
  MNM25 N_BIAS EN_N VSS VSS nfet_01v8 M=1 L=1u W=1u
  MNM3 N_BIAS N_BIAS VSS VSS nfet_01v8 M=4 L=1u W=1u
  MNM4 P_BIAS N_BIAS VSS VSS nfet_01v8 M=4 L=1u W=1u
  MNM5 IBIAS EN N_BIAS VSS nfet_01v8 M=3 L=1u W=1u
  MNM6 OUT_P EN_N OUT_N VSS nfet_01v8 M=1 L=150n W=420n
  MPM3 OUT_N EN OUT_P VDD pfet_01v8 M=1 L=150n W=550n
  MPM0 P_BIAS P_BIAS VDD VDD pfet_01v8_lvt M=4 L=1u W=1.5u
  MPM1 OUT_N P_BIAS VDD VDD pfet_01v8_lvt M=6 L=1u W=1.5u
  MPM12 VDD VDD VDD VDD pfet_01v8_lvt M=4 L=500n W=1.5u
  MPM13 VDD VDD VDD VDD pfet_01v8_lvt M=4 L=500n W=1.5u
  MPM14 VDD VDD VDD VDD pfet_01v8_lvt M=4 L=1u W=750n
  MPM15 VDD VDD VDD VDD pfet_01v8_lvt M=4 L=500n W=750n
  MPM2 OUT_P P_BIAS VDD VDD pfet_01v8_lvt M=6 L=1u W=1.5u
  MPM_C1 net011 OUT_P VDD VDD pfet_01v8_lvt M=2 L=1u W=1.5u
  MPM_C2 net011 OUT_N VDD VDD pfet_01v8_lvt M=2 L=1u W=1.5u
.ends comparator_preamp


***********************************************************
*             Completed at Aug 10 01:56:40 2026           *
***********************************************************
